US07868031B2
N-(4-Oxazol-2-yl-phenyl)-2-oxo-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-propionamide
0.052 ml of thionyl chloride was added to a solution of 0.1 g of 2-oxo-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-propionic acid in 2 ml of dimethyl acetamide at −5° C., and stirred for 30 min at −5° C. Then 56 mg of 4-oxazol-2-yl-phenylamine was added in solid form and stirred for 1 hour at room temperature. Potassium carbonate was added and stirred overnight at room temperature. The reaction was quenched with water and extracted with ethyl acetate. The combined ethyl acetate extracts were washed twice with water, dried and concentrated by evaporation. The residue was purified by column chromatography on silica-gel (EtOAc-hexane 10%-20%) to yield 63 mg of product.

reactant | thionyl chloride | 0.052 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-oxo-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-propionic acid | 0.1 g | O=C(C(=O)O)CC1(CCC1)C1=C(C=CC=C1)C(F)(F)F | C14H13F3O3
reactant | 4-oxazol-2-yl-phenylamine | 56 mg | O1C(=NC=C1)C1=CC=C(C=C1)N | C9H8N2O
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl acetamide | 2 ml | CC(=O)N(C)C | C4H9NO
product | N-(4-Oxazol-2-yl-phenyl)-2-oxo-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-propionamide | 63 mg | O1C(=NC=C1)C1=CC=C(C=C1)NC(C(CC1(CCC1)C1=C(C=CC=C1)C(F)(F)F)=O)=O | C23H19F3N2O3
